US05998433
c) Synthesis of N,N-dimethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.235 g was dissolved in methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.235 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)=O)O1 | C24H23ClN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)=O)O1 | InChI=1S/C24H23ClN2O3.ClH/c1-26(2)14-21-13-19-11-12-27(15-22(19)30-21)24(29)18-5-3-16(4-6-18)23(28)17-7-9-20(25)10-8-17;/h3-10,13H,11-12,14-15H2,1-2H3;1H
